US04125732
(m-tert.-Butylphenoxy){p-[(p-chlorophenoxy)methoxy]phenyl}acetic acid
To a solution of 9.5 g of methyl(m-tert.-butylphenoxy){p-[(p-chlorophenoxy)methoxy]phenyl}acetate in 60 ml of ethanol is added a solution of 7 g of potassium hydroxide in 60 ml of water. The mixture is stirred and refluxed for 18 hours and while hot is acidified with 11.5 ml of concentrated HCl. The mixture is chilled immediately. The supernatant is decanted from the oil which separates. Water is added and decanted. The gummy material is dissolved in dichloromethane, dried (MgSO4) and the solvent removed under reduced pressure to give 8.4 g of a gum. The gum is triturated with hexane containing a small amount of dichloromethane to give 5.7 g of yellow crystals. The crystals are dissolved in 25 ml of dichloromethane and the solution diluted with 50 ml of hexane. Chilling gives 4.4 g of product as pale yellow crystals, mp 122°-124° C.

reactant | methyl(m-tert.-butylphenoxy){p-[(p-chlorophenoxy)methoxy]phenyl}acetate | 9.5 g | COC(C(C1=CC=C(C=C1)OCOC1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)C(C)(C)C)=O | C26H27ClO5
reactant | potassium hydroxide | 7 g | [OH-].[K+]
reactant | HCl | 11.5 ml | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | (m-tert.-Butylphenoxy){p-[(p-chlorophenoxy)methoxy]phenyl}acetic acid | 8.4 g | C(C)(C)(C)C=1C=C(OC(C(=O)O)C2=CC=C(C=C2)OCOC2=CC=C(C=C2)Cl)C=CC1 | C25H25ClO5
